US04100349
A solution of 1.46 g (10 mM) of 2-(5-imidazolyl)-acetaldehyde HCl in 20 ml of dichloromethane is treated with 2.01 g (20 mM) of triethylamine and 1.9 g of p-toluenesulfonyl chloride at 25° C for about 16 hours after which the solution is washed with 3 N hydrochloric acid, water, sodium bicarbonate and water then dried and evaporated to afford 2-(1-tosylimidazol-5-yl)acetaldehyde upon recrystallization from ethyl acetate.

reactant | 2-(5-imidazolyl)-acetaldehyde HCl | 10 mM, 1.46 g | Cl.N1C=NC=C1CC=O
reactant | triethylamine | 20 mM, 2.01 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(1-tosylimidazol-5-yl)acetaldehyde | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC=C1CC=O | C12H12N2O3S
